US09376441B2
(R)-4-((R)-1-((3-cyclopropyl-6-(4-(2,2-difluoroethoxy)-3-methoxyphenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one:
In a 50 mL 3-neck flask with a magnetic stir bar and condenser was placed (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-on (125 mg, 0.34 mmol), 2-(4-(2,2-difluoroethoxy)-3-methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (135 mg, 0.43 mmol) and Pd(PPh3)4 (40 mg, 0.027 mmol). Evacuated and filled with nitrogen 3×. Added 2.5 mL DME and 2N sodium carbonate (0.51 ml, 1.03 mmol) via syringe and heated in a 105° C. oil bath for 2 hrs at which time LC-MS indicated a complete reaction. Let cool, added EtOAc and water, separated, washed with brine, dried over Na2SO4, filtered and concentrated. Purified by chromatography: ISCO 50 g C18 reverse phase 0-30% water/acetonitrile/0.1% TFA. Partially concentrated under reduced pressure added EtOAc and sat.aq.bicarb, separated, washed with brine, dried over Na2SO4, filtered and concentrated to give a white solid.

reactant | (R)-4-((R)-1-((6-bromo-3-cyclopropyl-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-on | 0.34 mmol, 125 mg | BrC1=CC2=C(C(=N1)O[C@H](C)[C@@H]1CC(NC1)=O)N(C=N2)C2CC2 | C15H17BrN4O2
reactant | 2-(4-(2,2-difluoroethoxy)-3-methoxyphenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.43 mmol, 135 mg | FC(COC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)OC)F | C15H21BF2O4
reactant | DME | 2.5 mL | COCCOC | C4H10O2
reactant | sodium carbonate | 1.03 mmol, 2N, 0.51 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.027 mmol, 40 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-4-((R)-1-((3-cyclopropyl-6-(4-(2,2-difluoroethoxy)-3-methoxyphenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | C1(CC1)N1C=NC2=C1C(=NC(=C2)C2=CC(=C(C=C2)OCC(F)F)OC)O[C@H](C)[C@@H]2CC(NC2)=O | C24H26F2N4O4
